US03932471
3,3-Dimethyl-2-methylcarbamyloximino-1-methylsulfonyloxybutane (Compound 9350)
A solution of 7.5 g (0.04 m) of 1-hydroxy-3,3-dimethyl-2-methylcarbamyloximinobutane and 5.0 g (0.044 m) of methanesulfonyl chloride in 50 ml of benzene is treated dropwise with 4.6 g (0.044 m) of triethylamine with cooling to keep the temperature below 35° C. After the addition, the stirred mixture is heated at 35° C for two hours and then washed with aqueous sodium bicarbonate and with water. The organic layer is dried over magnesium sulfate, filtered, and stripped of volatiles to give 6.7 g (63%) of amber, viscous liquid residue, nD25 1.4810.

reactant | 1-hydroxy-3,3-dimethyl-2-methylcarbamyloximinobutane | 7.5 g | OC(C(C(C)(C)C)C(NC)=O)=NO | C8H16N2O3
reactant | methanesulfonyl chloride | 5.0 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 4.6 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 3,3-Dimethyl-2-methylcarbamyloximino-1-methylsulfonyloxybutane | CC(C(C(OS(=O)(=O)C)=NO)C(NC)=O)(C)C | C9H18N2O5S
